US08198311B2
To a stirred solution of (S)-3-(1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanenitrile (80 mg, 0.29 mmol) in anhydrous THF (5 mL) was added 1.0M NaHMDS in THF (0.30 mL, 0.30 mmol) at RT under nitrogen. After stirring at RT for 10 min, methyl iodide (0.03 mL, 0.48 mmol) was added, and the reaction was stirred overnight. The reaction mixture was poured into water, extracted with ethyl acetate (2×100 mL), dried (MgSO4) and concentrated. The resulting N1 and N2 adducts were separated by HPLC to give 54 mg (62% yield) of the desired N1 adduct (S)-2,2-dimethyl-3-(1-methyl-1H-indazol-5-yl)-3-phenylpropanenitrile. MS found: (M+H)+=290.

reactant | (S)-3-(1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanenitrile | 0.29 mmol, 80 mg | N1N=CC2=CC(=CC=C12)[C@@H](C(C#N)(C)C)C1=CC=CC=C1 | C18H17N3
reactant | NaHMDS | 1.0M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | methyl iodide | 0.48 mmol, 0.03 mL | CI | CH3I
reactant | water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.30 mmol, 0.30 mL | C1CCOC1 | C4H8O
product | (S)-2,2-dimethyl-3-(1-methyl-1H-indazol-5-yl)-3-phenylpropanenitrile | 62% yield | CC(C#N)([C@@H](C1=CC=CC=C1)C=1C=C2C=NN(C2=CC1)C)C | C19H19N3
